US05346917
1-[[2-(Diethylamino)ethyl]amino]-4-(aminomethyl)-7-bromothioxanthen-9-one (1 g, 2.3 mmol) in 11.5 mL of dry pyridine under nitrogen was stirred in an ice bath for 15 min and 0.2 mL (2.6 mmol) of methanesulfonyl chloride in chilled pyridine was added dropwise and the mixture was stirred at room temperature. The reaction mixture was poured into 200 mL of water, added 0.19 g of sodium hydroxide in ice/water, and extracted into chloroform. The organic layer was washed with water (2x) and brine, and dried over anhydrous sodium sulfate. The mixture was filtered, concentrated in vacuo and the residue was stirred in ether, filtered, and dried to afford 1.02 g of N-[[1-[[2-(diethylamino)ethyl]amino]-7-bromo-9-oxothioxanthen-4-yl]methyl]methanesulfonamide, m.p. 134°-139° C.

reactant | 1-[[2-(Diethylamino)ethyl]amino]-4-(aminomethyl)-7-bromothioxanthen-9-one | 2.3 mmol, 1 g | C(C)N(CCNC1=CC=C(C=2SC3=CC=C(C=C3C(C12)=O)Br)CN)CC | C20H24BrN3OS
reactant | methanesulfonyl chloride | 2.6 mmol, 0.2 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 200 mL | O | H2O
reactant | sodium hydroxide | 0.19 g | [OH-].[Na+]
solvent | pyridine | 11.5 mL | N1=CC=CC=C1 | C5H5N
product | N-[[1-[[2-(diethylamino)ethyl]amino]-7-bromo-9-oxothioxanthen-4-yl]methyl]methanesulfonamide | 1.02 g | C(C)N(CCNC1=CC=C(C=2SC3=CC=C(C=C3C(C12)=O)Br)CNS(=O)(=O)C)CC | C21H26BrN3O3S2
